US03971772
A solution of 35 g of tetrahydropyran-2-yloxy acetonitrile in 100 ml of ether is added dropwise to a slurry of 10 g of lithium aluminum hydride in 300 ml of ether and 100 ml of tetrahydrofuran. The slurry is refluxed for 210 minutes, cooled, and 25 ml of sat. potassium carbonate solution is added at a rate that maintains gentle reflux. After 90 minutes the slurry is filtered and the solid is washed with ether. The filtrate is evaporated in vacuo and distilled to give 33.6 g of 2-(tetrahydropyran-2-yloxy)ethylamine, boiling point 41.5°-46°C at 0.5-0.8 mm.

reactant | tetrahydropyran-2-yloxy acetonitrile | 35 g | O1C(CCCC1)OCC#N | C7H11NO2
reactant | lithium aluminum hydride | 10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium carbonate | 25 ml | C([O-])([O-])=O.[K+].[K+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(tetrahydropyran-2-yloxy)ethylamine | 33.6 g | O1C(CCCC1)OCCN | C7H15NO2
